Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
none

attach
 
Pertinent Results:
ADMISSION LABS: 
===============
___ 01:55AM BLOOD WBC-13.4* RBC-4.02* Hgb-11.8* Hct-34.6* 
MCV-86 MCH-29.4 MCHC-34.1 RDW-11.7 RDWSD-36.6 Plt ___
___ 01:55AM BLOOD Neuts-77.1* Lymphs-11.5* Monos-8.9 
Eos-0.4* Baso-0.2 Im ___ AbsNeut-10.29* AbsLymp-1.54 
AbsMono-1.19* AbsEos-0.05 AbsBaso-0.03
___ 01:55AM BLOOD ___ PTT-29.6 ___
___ 01:55AM BLOOD Glucose-109* UreaN-13 Creat-0.8 Na-139 
K-4.2 Cl-103 HCO3-23 AnGap-13
___ 10:35AM BLOOD ALT-19 AST-13 AlkPhos-118 TotBili-0.4
___ 01:55AM BLOOD cTropnT-<0.01
___ 07:35AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 01:55AM BLOOD Calcium-8.6 Phos-4.2 Mg-1.9
___ 10:35AM BLOOD calTIBC-191* Ferritn-357 TRF-147*
___ 10:35AM BLOOD ___ CRP-220.3*
___ 10:35AM BLOOD IgG-730 IgM-137
___ 10:35AM BLOOD CMV IgG-NEG CMV IgM-NEG CMVI-There is n 
EBV IgG-POS* EBNA-POS* EBV IgM-NEG EBVI-Results in Lyme Ab-NEG 
TOX IgG-NEG TOXI-If acute I

DISCHARGE LABS: 
================
___ 06:30AM BLOOD WBC-12.9* RBC-3.96* Hgb-11.7* Hct-34.3* 
MCV-87 MCH-29.5 MCHC-34.1 RDW-11.9 RDWSD-38.0 Plt ___
___ 06:30AM BLOOD ___ PTT-27.8 ___
___ 06:30AM BLOOD Glucose-94 UreaN-15 Creat-0.9 Na-143 
K-4.6 Cl-104 HCO3-24 AnGap-15
___ 06:30AM BLOOD CRP-PND

OTHER PERTINENT STUDIES: 
========================
___ Echo Report
CONCLUSION:
The left atrial volume index is normal. There is no evidence for
an atrial septal defect by 2D/color Doppler.
The inferior vena cava is dilated (>2.5 cm). There is mild
symmetric left ventricular hypertrophy with a normal
cavity size. There is normal regional and global left 
ventricular
systolic function. Quantitative biplane left
ventricular ejection fraction is 60 % (normal 54-73%). Left
ventricular cardiac index is normal (>2.5 L/
min/m2). There is no resting left ventricular outflow tract
gradient. Normal right ventricular cavity size with
normal free wall motion. Right ventricular septal motion is
normal. The aortic sinus diameter is normal for
gender with a normal ascending aorta diameter for gender. The
aortic arch diameter is normal with a normal
descending aorta diameter. There is no evidence for an aortic
arch coarctation. The aortic valve leaflets (3)
appear structurally normal. There is no aortic valve stenosis.
There is no aortic regurgitation. The mitral valve
leaflets appear structurally normal with no mitral valve
prolapse. There is trivial mitral regurgitation. The
pulmonic valve leaflets are normal. The tricuspid valve leaflets
appear structurally normal. There is physiologic
tricuspid regurgitation. The pulmonary artery systolic pressure
could not be estimated. There is a moderate
circumferential pericardial effusion most promient laterally (up
to 2.5cm) and minimal around the
apex and anterior to the right ventricle. Stranding is 
visualized
within the pericardial space c/w
organization (see image below). There are no 2D or Doppler
echocardiographic evidence of tamponade. A
small right pleural effusion is present
IMPRESSION: Moderate circumferential pericardial effusion with
evidence for organization but not
hemodynamic compromise. Mild symmetric left ventricular
hypertrophy with normal cavity size
and regional/global biventricular systolic function. No valvular
pathology or pathologic flow
identified. Unable to quantify pulmonary artery systolic 
pressure
but dilated inferior vena cava.
Compared with the prior TTE (images reviewed) of ___, the
findings are similar.
RECOMMEND: If clinically indicated, a follow-up TTE is suggested
for further evaluation of
pericardial effusion.

FINDINGS:
LEFT ATRIUM (LA)/PULMONARY VEINS: Normal LA volume index.
RIGHT ATRIUM (RA)/INTERATRIAL SEPTUM/INFERIOR VENA CAVA (IVC):
Normal RA size. No atrial
septal defect by 2D/color Doppler. Dilated IVC (>2.5 cm).
LEFT VENTRICLE (LV): Mild symmetric hypertrophy. Normal cavity
size. Normal regional/global systolic
function. Normal cardiac index (>2.5 L/min/m2). No resting
outflow tract gradient.
RIGHT VENTRICLE (RV): Normal cavity size. Normal free wall
motion. Normal interventricular septal
motion.
AORTA: Normal sinus diameter for gender. Normal ascending
diameter for gender. Normal arch diameter.
Normal descending aorta. No coarctation.
AORTIC VALVE (AV): Normal/thin (3) leaflets. No stenosis. No
regurgitation.
MITRAL VALVE (MV): Normal leaflets. No systolic prolapse. 
Trivial
regurgitation.
PULMONIC VALVE (PV): Normal leaflets. Physiologic regurgitation.
TRICUSPID VALVE (TV): Normal leaflets. Physiologic 
regurgitation.
Indeterminate pulmonary artery systolic
pressure.
PERICARDIUM: Moderate effusion. Circumferential effusion.
Pericardial stranding c/w organization. No 2D/
Doppler evidence of tamponade.
PLEURAL EFFUSION/ASCITES: Right pleural effusion.

EKG: NSR, HR94, nl axis, no PR depressions, STE,
     or electrical alternans

___ Imaging CHEST (PORTABLE AP) 
IMPRESSION:  
Compared to chest radiograph ___.  New consolidation 
left lower lobe responsible for air bronchograms an obscuration 
of the diaphragmatic 
interface, accompanied by at least moderate left pleural 
effusion.  Cardiac silhouette size has not increased; 
pericardial effusion indeterminate. 
Overall findings could be explained by new pneumonia and pleural 
exudate, even empyema, and possible concurrent pericarditis. 
RECOMMENDATION(S):  Contrast enhanced chest CT to semi tennis 
___ evaluate 
lung pleura and pericardium. 

___ TTE: 
The estimated right atrial pressure is >15mmHg. The left 
ventricle has a normal cavity size. Overall left ventricular 
systolic function is normal. The visually estimated left 
ventricular ejection fraction is
>=60%. Normal right ventricular cavity size with normal free 
wall motion. There is a small circumferential pericardial 
effusion. There are no 2D or Doppler echocardiographic evidence 
of tamponade. A very prominent
left pleural effusion is present. IMPRESSION: Small 
circumferential pericardial effusion without evidence for 
hemodynamic compromise. Prominent left pleural effusion. 
Compared with the prior TTE (images reviewed) of ___, the 
percardial effusion is now smaller.

 
Brief Hospital Course:
TRANSITIONAL ISSUES 
==================== 
DISCHARGE WEIGHT: 207.01 lb 
DISCHARGE Cr: 0.9
DISCHARGE DIURETIC: none
DISCHARGE CRP: 201.3

MEDICATION CHANGES: 
- NEW: indomethacin
- STOPPED: ibuprofen + colchicine 
- CHANGED: none

FOR CARDIOLOGY: 
[] please repeat TTE in 1 week for re-evaluation of pericardial 
effusion 
[] please obtain weekly CRP to determine when appropriate for 
patient to stop taking indomethacin. 

FOR PCP: 
[] noted to have ___ (Fe 10, TIBC 191, Hgb 11.7), please 
consider initiation of ferrous sulfate 325mg QOD after 
resolution of pericarditis and then recheck CBC and iron studies 
thereafter. 
[] noted to have INR of 1.6 of uncertain etiology. please repeat 
coags in 2 weeks to determine if this is persistent. if it is, 
would recommend trial of PO vitamin K and possible workup for 
factor deficiencies.
[] consider referral for allergy testing given development of 
urticaria and perioral swelling possibly ___ colchicine 

BRIEF HOSPITAL COURSE: 
=======================
Dr. ___ is a ___ with recent dx of pericarditis ___ at 
BID-N at which point he was treated with colchicine + ibuprofen. 
He then represented ___ to BID-N with fever to 101.3F, 
malaise, SOB, and non-productive cough. Bedside TTE showed 
stable moderate sized pericardial effusion but there was some 
question of RV diastolic collapse thus he was transferred to 
___. Here, repeat TTE showed 1cc circumferential effusion w/o 
diastolic collapse. He was initially continued on ibuprofen + 
colchicine, but was then noted to have urticaria + perioral 
edema of uncertain etiology. Thus his colchicine & ibuprofen 
were stopped and he was transitioned to indomethacin, with 
resolution of his prior symptoms. Furthermore, repeat TTE prior 
to discharge showed small improvements in size of pericardial 
effusion. He also received several doses of diphenhydramine and 
a single dose of 60mg PO prednisone with resolution of his rash 
& perioral edema. ID was also consulted for assistance in 
working up the pericarditis, but etiology was unknown with some 
studies still pending at time of discharge. 

ACUTE ISSUES:
=============
#PERICARDITIS
#PERICARDIAL EFFUSION 
#FEVER, LEUKOCYTOSIS
Recently diagnosed at BI-N on ___, c/b moderate pericardial 
effusion. Was improving on NSAIDs and colchicine alone, but 
___ acutely had recurrent transient respiratory sx, fever, 
found to have persistent leukocytosis w/ ESR of 62 & CRP of 220. 
Repeat TTE ___ here w/ stable pericardial effusion w/o 
evidence of tamponade physiology. Follow-up TTE ___ w/ small 
improvements in size of pericardial effusion. Most likely viral 
or undetermined etiology. Given pleural effusion & pulmonary 
consolidation, considered bacterial cause, but symptoms largely 
resolved without pericardiocentesis or administration of 
antibiotics. Sent broad infectious workup per ID 
recommendations, many of which were unrevealing, but some of 
which are still pending upon day of discharge. In summary 
though, EBV (likely prior infection), CMV negative, lyme Ab 
negative, Toxo negative, Flu negative. Mycoplasma, S. pneumo, 
Quant Gold, ___, Parvovirus, and Adenovirus are still 
pending. Initially continued on ibuprofen + colchicine, but d/t 
concern for allergic reaction to colchicine, he was transitioned 
to indomethacin. 

#LEFT PLEURAL EFFUSION
#CXR CONSOLIDATION
Unclear if pneumonia precipitated pericarditis or if these CXR 
findings are reactive iso pericarditis. Deferred further 
imaging, thoracentesis, and antibiotics as pt remained afebrile 
and symptoms continued to improve. 

#URTICARIA: 
Hives appeared ___ AM over arms, legs, abdomen then 
progressive to mouth with tongue swelling. Culprit remains 
unclear but colchicine was stopped due to concern that this may 
have precipitated reaction. Pt's symptoms resolved with IV 
benadyrl + 60mg PO prednisone x1. 

#COAGULOPATHY: 
INR of 1.5, despite LFTs wnl. Possibly ___ recent medication 
changes. Also considered vit K deficiency, but this seems less 
likely. Similarly given lack of prior laboratory data, could 
have factor deficiency. 

___: 
Fe of 10. Hgb stable ___. Defer Fe supplementation this 
hospitalization d/t c/f underlying infection per above. 

CHRONIC ISSUES:
===============
#DEPRESSION
- continued home escitalopram

#CLUSTER HEADACHES
- provided 15min of O2 (NRB) for several episodes

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 800 mg PO Q8H 
2. Colchicine 0.6 mg PO BID 
3. Omeprazole 20 mg PO DAILY 
4. Escitalopram Oxalate 20 mg PO DAILY 

 
Discharge Medications:
1.  Indomethacin 25 mg PO TID  
2.  Escitalopram Oxalate 20 mg PO DAILY  
3.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: 
========
Pericarditis
Pericardial Effusion

SECONDARY: 
==========
Pleural Effusion 
Cluster Headache
Urticaria 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 Dear Mr. ___,  

 It was a pleasure taking care of you at the ___ 
___! 
 
 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You presented to ___ with fever, shortness of breath, 
and generally feeling unwell. You were transferred to ___ 
for further care.  

 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
 - An echocardiogram was overall unchanged from prior with 
stable effusion and no heart dysfunction. 
 - A chest x-ray showed left pleural effusion & opacity. 
 - You were evaluated by infectious disease specialists who 
helped decide which blood work tests were necessary. 
 - You were given O2 for your cluster headaches. 
 - You were transitioned from colchicine + ibuprofen to 
indomethacin to treat your pericarditis and avoid possible 
medication side effects. 
 - You were given prednisone & diphenhydramine for your rash 
which was felt to be a possible side effect from the colchicine. 


 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
 - Take all of your medications as prescribed (listed below).  
 - Follow up with your doctors as listed below  

If you were given any prescriptions on discharge, any future 
refills will need to be authorized by your outpatient providers, 
primary care or cardiologist.

It was a pleasure participating in your care.  

 If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, you may call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  

-Your ___ Care Team  
 
 
Followup Instructions:
___